US09388143B2
Synthesis of (N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide)
1 kg of 2,3 dichloroquinoxaline and 1 kg of 3-nitrobenzenesulfonamide are mixed in 5 volumes of acetonitrile. The reaction mixture is heated to reflux. 2.3 kg of DBU and 1 volume of acetonitrile are added. After completion of the reaction, cool down at 5° C. Add 12 volumes of methanol and 1.53 kg of HCl, filter the reaction mixture. Wash the cake with 6 volumes of methanol and dry under vacuum.

reactant | 2,3 dichloroquinoxaline | 1 kg | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | 3-nitrobenzenesulfonamide | 1 kg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N | C6H6N2O4S
reactant | DBU | 2.3 kg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 1.53 kg | Cl | ClH
solvent | methanol | CO | CH4O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H9ClN4O4S
